US07375113B2
To a solution of 4-[2-(4-benzyloxyphenyl)ethyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine (49 mg) in methanol (4 mL) was added sodium methoxide (0.056 mL), and the mixture was stirred at 50° C. for 5 hours. To the reaction mixture was added acetic acid (0.033 mL), and the resulting mixture was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1−5/1) to give 4-[2-(4-benzyloxyphenyl)ethyl]-3-(β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine (25 mg). This material was dissolved in methanol (4 mL). To the solution was added 10% palladium-carbon powder (10 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere overnight. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (16 mg).

reactant | 4-[2-(4-benzyloxyphenyl)ethyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine | 49 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC1=C2C(=NC=C1)NN=C2O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C47H61N3O11
reactant | sodium methoxide | 0.056 mL | C[O-].[Na+]
reactant | acetic acid | 0.033 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 4 mL | CO | CH4O
product | 4-[2-(4-benzyloxyphenyl)ethyl]-3-(β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine | 25 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC1=C2C(=NC=C1)NN=C2O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO | C27H29N3O7
